US09120761B2
(e) tert-Butyl 4-(4-amino-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate (I33)
To a stirred solution of 2-methoxy-4-(1,2,3,6-tetrahydropyridin-4-yl)aniline (I32) (6.38 g, 14.8 mmol) in MeOH (50 mL) at room temperature was added a solution of (Boc)2O (3.27 g, 15.0 mmol) in MeOH (20 mL) drop-wise over 5 minutes and the resultant solution was stirred for 1 hour. The mixture was concentrated in vacuo and the residue was taken up in 2 M NaOH (50 mL) solution. The aqueous layer was extracted with CH2Cl2 (4×50 mL) and the combined organic extracts were washed with brine (50 mL) then dried (MgSO4). The solvent was removed in vacuo to give the title compound (I33) (1.97 g, 43%) as a brown oil; 1H NMR (400 MHz, CDCl3) δ 6.85-6.80 (m, 1H), 6.67 (d, J=8.1 Hz, 1H), 5.90 (s, 1H), 4.05 (d, J=2.7 Hz, 1H), 3.87 (s, 3H), 3.62 (t, J=5.7 Hz, 1H), 2.49 (s, 2H), 1.49 (s, 9H).

reactant | 2-methoxy-4-(1,2,3,6-tetrahydropyridin-4-yl)aniline | 14.8 mmol, 6.38 g | COC1=C(N)C=CC(=C1)C=1CCNCC1 | C12H16N2O
reactant | (Boc)2O | 15.0 mmol, 3.27 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
product | tert-Butyl 4-(4-amino-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.97 g, 43% | NC1=C(C=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)OC | C17H24N2O3
